US20010018438A1
Methyl-3-dimethylamino-2-(4-methoxyphenyl)propenoate (1.6 g), N-methyl-2-(4-methylthiazol-2-yl)acetamide (1 g) and methanol (0.28 cm3) were dissolved in N,N-dimethylformamide (30 cm3) and cooled to 0° C. under N2. Sodium hydride (60% suspension in oil, 0.28 g) was added and the mixture heated at 80° C. for 18 h. The mixture was cooled, partitioned between ethyl acetate (200 cm3) and water (200 cm3). The aqueous layer was acidified with 2N HCl and extracted with ethyl acetate (3×100 cm3) which was dried (MgSO4) and evaporated. The crude solid was recrystallised from ethyl acetate/ether to yield pure 6-hydroxy-5-(4-methoxyphenyl)-1-methyl-3-(4-methylthiazol-2-yl)-1H-pyridin-2-one (0.3 g). δH (250 MHz; CDCl3); 2.37 (3H, s), 3.48 (3H, s), 3.83 (3H, s), 6.37 (1H, s), 6.92 (2H, d, J 8.7 Hz), 7.33 (1H, s) and 7.53 (2H, d, J 8.7 Hz); m/z (ESP+) 329 (MH+).

reactant | Methyl-3-dimethylamino-2-(4-methoxyphenyl)propenoate | 1.6 g | COC(C(=CN(C)C)C1=CC=C(C=C1)OC)=O | C13H17NO3
reactant | N-methyl-2-(4-methylthiazol-2-yl)acetamide | 1 g | CNC(CC=1SC=C(N1)C)=O | C7H10N2OS
reactant | methanol | 0.28 cm3 | CO | CH4O
reactant | Sodium hydride | 0.28 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 30 cm3 | CN(C=O)C | C3H7NO
product | 6-hydroxy-5-(4-methoxyphenyl)-1-methyl-3-(4-methylthiazol-2-yl)-1H-pyridin-2-one | 0.3 g | OC1=C(C=C(C(N1C)=O)C=1SC=C(N1)C)C1=CC=C(C=C1)OC | C17H16N2O3S
